US07186749B2
Step 1: {[6-(5-Phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile.
In a similar manner as described in step 6 of Example 1, the title compound was prepared from 6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthol (0.285 g, 1.00 mmol), prepared in step 5 of Example 1, bromoacetonitrile (0.144 g, 1.20 mmol) and cesium carbonate (1.63 g, 5.00 mmol) with the exception that the reaction was complete after 2 hours at ambient temperature. The isolated tan solids (0.323 g, 100%) were used without further purification, mp 141.5–142.5° C. Elemental Analysis for C22H16N2O Calc'd: C, 81.46; H, 4.97; N, 8.64. Found: C, 80.37; H, 4.93; N,

reactant | 6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthol | 1.00 mmol, 0.285 g | C1(=CC=CC=C1)C1=CC=C(N1)C=1C=C2C=CC(=CC2=CC1)O | C20H15NO
reactant | bromoacetonitrile | 1.20 mmol, 0.144 g | BrCC#N | C2H2BrN
reactant | cesium carbonate | 5.00 mmol, 1.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | {[6-(5-Phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile | C1(=CC=CC=C1)C1=CC=C(N1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C22H16N2O
